US08877934B2
Step E: (E)-4,4,5,5,5-Pentafluoropent-2-enoic acid
Ethyl (E)-4,4,5,5,5-pentafluoropent-2-enoate (5.5 g, 25.2 mmol) was suspended in 10% NaOH (14.5 ml) and heated at reflux until a homogenous solution was obtained (40 min). After cooling to room temperature the mixture was washed with diethylether (2×) and acidified under ice-cooling with concentrated sulfuric acid. The mixture was extracted with diethylether (3×), the combined organic phases were washed with water, dried over magnesium sulfate and the solvent removed under reduced pressure. 2.64 g (13.9 mmol, 55%) were obtained. MS (ES) M/z=189.0 [M−H]−.

reactant | Ethyl (E)-4,4,5,5,5-pentafluoropent-2-enoate | 25.2 mmol, 5.5 g | FC(/C=C/C(=O)OCC)(C(F)(F)F)F | C7H7F5O2
solvent | NaOH | 14.5 ml | [OH-].[Na+]
product | (E)-4,4,5,5,5-Pentafluoropent-2-enoic acid | FC(/C=C/C(=O)O)(C(F)(F)F)F | C5H3F5O2
